US07560475B2
methyl [3-(2-{5-ethyl-2-[4-(trifluoromethoxy)phenyl]-1,3-oxazol-4-yl}ethoxy)-4-methylphenyl]acetate:
Under atmosphere of argon, a solution of methyl (3-hydroxy-4-methylphenyl)acetate (1.00 g) in methylene chloride (22 mL) was added by 2-{5-ethyl-2-[4-(trifluoromethoxy)phenyl]-1,3-oxazol-4-yl}ethanol (2.00 g), triphenylphosphine (2.18 g) and 1,1′-(azodicarbonyl)dipiperidine (2.10 g) and stirred overnight at room temperature. The reaction mixture was concentrated and the obtained residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to give the title compound (2.38 g) having the following physical data.

reactant | methyl (3-hydroxy-4-methylphenyl)acetate | 1.00 g | OC=1C=C(C=CC1C)CC(=O)OC | C10H12O3
reactant | 2-{5-ethyl-2-[4-(trifluoromethoxy)phenyl]-1,3-oxazol-4-yl}ethanol | 2.00 g | C(C)C1=C(N=C(O1)C1=CC=C(C=C1)OC(F)(F)F)CCO | C14H14F3NO3
reactant | triphenylphosphine | 2.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.10 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | methylene chloride | 22 mL | C(Cl)Cl | CH2Cl2
product | methyl [3-(2-{5-ethyl-2-[4-(trifluoromethoxy)phenyl]-1,3-oxazol-4-yl}ethoxy)-4-methylphenyl]acetate | 2.38 g | C(C)C1=C(N=C(O1)C1=CC=C(C=C1)OC(F)(F)F)CCOC=1C=C(C=CC1C)CC(=O)OC | C24H24F3NO5
